US04755212
Preparation of 2,3-dichloro-6-methyl aniline
A slurry of 6.50 g (25.5 mmol) of 2,3-dichloro-4-bromo-6-methyl aniline and 8.37 g (102 mmol) of sodium acetate in 120 ml of acetic acid-ethanol (1:1, v/v) was treated with 0.65 g of 5% palladium on carbon. The mixture was hydrogenated in a Parr hydrogenation apparatus at an initial pressure of 50 psi for 10 minutes. The reaction mixture was filtered, and the filtrate was concentrated by evaporation at reduced pressure. The residue was partitioned between ether and water, and the organic layer was washed with 5% aqueous sodium hydroxide, dried and evaporated at reduced pressure. The residue was purified by Kugelrohr distillation to afford 4.00 g (89%) of the desired product as a colorless oil, b.p. 60°-70° C. (0.15 mm). IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 2,3-dichloro-4-bromo-6-methyl aniline | 25.5 mmol, 6.50 g | ClC1=C(N)C(=CC(=C1Cl)Br)C | C7H6BrCl2N
reactant | sodium acetate | 102 mmol, 8.37 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid ethanol | 120 ml | C(C)(=O)O.C(C)O
catalyst | palladium on carbon | 0.65 g | [Pd] | Pd
product | 2,3-dichloro-6-methyl aniline | 4.00 g, 89% | ClC1=C(N)C(=CC=C1Cl)C | C7H7Cl2N
